US04133835
The oily material from the distillate weighed 48.5 g. and consisted of 26% cumene, 56% α-methylstyrene and lesser amounts of acetophenone and cumyl alcohol. This recovered material was used without purification in a subsequent run from which a 55.1% yield of dicumyl peroxide was obtained.

reactant | cumene | C1(=CC=CC=C1)C(C)C | C9H12
reactant | α-methylstyrene | CC(=C)C1=CC=CC=C1 | C9H10
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | cumyl alcohol | C(C)(C)(C1=CC=CC=C1)O | C9H12O
product | dicumyl peroxide | 55.1% yield | C(C)(C)(C1=CC=CC=C1)OOC(C)(C)C1=CC=CC=C1 | C18H22O2
